US06083952
(±)-8-Methyl-1,3,4,10b-tetrahydropyrido[2,1-a]isoindole-2,6-dione
A mixture of 1-(2-bromo-5-methylbenzoyl)-2,3-dihydro-4-pyridinone (1.19 g, 4.03 mmol), tri-n-butyltin hydride (1.14 ml, 4.24 mmol) and azobis(isobutyronitrile) (AIBN, 66 mg, 10 mol %) in toluene (40 ml) was heated at 95° C. for 2 h, cooled, evaporated and purified by flash column chromatography on silica eluting with 30% ethyl acetate in hexane to yield the title compound as a pale yellow oil (276 mg), MS (+EI) m /z 215 [M+ ].

reactant | 1-(2-bromo-5-methylbenzoyl)-2,3-dihydro-4-pyridinone | 4.03 mmol, 1.19 g | BrC1=C(C(=O)N2CCC(C=C2)=O)C=C(C=C1)C | C13H12BrNO2
reactant | tri-n-butyltin hydride | 4.24 mmol, 1.14 ml | C(CCC)[SnH](CCCC)CCCC
reactant | azobis(isobutyronitrile) | 66 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-8-Methyl-1,3,4,10b-tetrahydropyrido[2,1-a]isoindole-2,6-dione | 276 mg | CC=1C=C2C(N3C(C2=CC1)CC(CC3)=O)=O | C13H13NO2
